US06956049B1
(2E)-N-Hydroxy-3-phenyl-2-propenimidamide (1.6 g, 10 mmol) was mixed with excess acetyl chloride (30 mL), and heated to reflux. After 1 h the solution was cooled and the excess acetyl chloride was removed in vacuo. The resultant solids were triturated in hot ethyl acetate-hexane-acetone solution, and the supernatant was removed. The remaining solids were dried under high vacuum to afford 5-methyl-3-[(E)-2-phenylethenyl]-1,2,4-oxadiazole (0.50 g, 27% yield from cinnamonitrile) as a pale yellow powder. M.p. 166–168° C. 1H NMR (DMSO-d6, 300 MHz) δ 7.59 (m, 3H), 7.42 (m, 3H), 6.58 (d, J=16 Hz, 1H), 2.17 (s, 3H).

reactant | (2E)-N-Hydroxy-3-phenyl-2-propenimidamide | 10 mmol, 1.6 g | ONC(\C=C\C1=CC=CC=C1)=N | C9H10N2O
reactant | acetyl chloride | 30 mL | C(C)(=O)Cl | C2H3ClO
product | 5-methyl-3-[(E)-2-phenylethenyl]-1,2,4-oxadiazole | 0.50 g, 27% yield | CC1=NC(=NO1)\C=C\C1=CC=CC=C1 | C11H10N2O
